US06645953B2
A mixture of 4,4-dimethyl-16β-(tert-butyldimethylsilyloxy)cholest-5-en-3-one (40 mg, 0.07 mmol), concentrated HCl (0.2 mL) and ethanol (5 mL) were heated to reflux for 20 hours. Removal of solvent under reduced pressure and recrystallization twice from methanol gave 4,4-dimethylcholest-5-en-16-ol-3-one (20 mg).

reactant | 4,4-dimethyl-16β-(tert-butyldimethylsilyloxy)cholest-5-en-3-one | 0.07 mmol, 40 mg | CC1(C2=CC[C@H]3[C@@H]4C[C@@H]([C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C)O[Si](C)(C)C(C)(C)C)C | C35H62O2Si
reactant | HCl | 0.2 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 4,4-dimethylcholest-5-en-16-ol-3-one | 20 mg | CC1(C2=CC[C@H]3[C@@H]4CC([C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C)O)C | C29H48O2
